US05190934
A solution of 1.68 g of ethyl 2-(4-chlorophenyl)prop-1-enylphosphinate in 20 ml of triethyl orthoformate is treated with 0.1 g of boron trifluoride diethyl etherate and the resulting solution stirred for 7 days at room temperature. The reaction mixture is then treated with 20 ml 10% aqueous sodium hydrogen carbonate solution and extracted twice with dichloromethane. The organic layer is removed, dried and concentrated to give an oil. Chromatography on silica gel gives ethyl 2-(4-chlorophenyl)prop-1-enyl-(diethoxymethyl)phosphinate as a colourless oil. 1H-NMR (CDCl3): δ(ppm)=7.38 (4H, m; Ph), 5.51 (1H, d, CH), 4.62 (1H, d, CH--P), 4.05 (2H, q, CH2OP), 3.88-3.56 (CH, m, 2×CH2OC), 2.07 (2H, d, d, CH2P), 1.28-1.14 (9H, m, 3×CH3).

reactant | ethyl 2-(4-chlorophenyl)prop-1-enylphosphinate | 1.68 g | ClC1=CC=C(C=C1)C(=CP(OCC)=O)C | C11H14ClO2P
reactant | boron trifluoride diethyl etherate | 0.1 g | B(F)(F)F.CCOCC
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
reactant | triethyl orthoformate | 20 ml | C(OCC)(OCC)OCC | C7H16O3
product | ethyl 2-(4-chlorophenyl)prop-1-enyl-(diethoxymethyl)phosphinate | ClC1=CC=C(C=C1)C(=CP(OCC)(=O)C(OCC)OCC)C | C16H24ClO4P
